US08420823B2
2-Methoxy-N-(4-methoxyphenyl)-5-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 2-methoxy-5-(piperidin-1-ylsulfonyl)benzoic acid and 4-methoxyaniline as the starting materials.

reactant | 2-methoxy-5-(piperidin-1-ylsulfonyl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCCCC1 | C13H17NO5S
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 2-Methoxy-N-(4-methoxyphenyl)-5-(piperidin-1-ylsulfonyl)benzamide | COC1=C(C(=O)NC2=CC=C(C=C2)OC)C=C(C=C1)S(=O)(=O)N1CCCCC1 | C20H24N2O5S
